* source FLYBACK_DIAGRAM TEST
* PSpice Text Block on Gain-Phase PAGE1
.TRAN  0 {5/FREQ+SSD} {SSD} SKIPBP
.STEP DEC PARAM FREQ 100 100K 10
.PROBE64 P(FREQ)
.OPTIONS MINSIMPTS = 1000
***
R_FB_RFB1         FB_N02226 INJ  18.7k TC=0,0 
C_FB_Cref         0 FB_N14535  1u  TC=0,0 
R_FB_PS_Rg         FB_PS_GATE FB_PS_N15331  50R TC=0,0 
L_FB_PS_Lmp         FB_PS_N16991 FB_PS_DRAIN  {Lm}  
R_FB_PS_RsnubD         AA FB_PS_N18140  27.4R TC=0,0 
Kn_FB_PS_K1         L_FB_PS_Lp L_FB_PS_Ls     0.99733 KRM8/i/AL160_3F3
L_FB_PS_Lp         FB_PS_N12010 FB_PS_N16991  {N}  
X_FB_PS_M1         FB_PS_DRAIN FB_PS_GATE FB_N14259 IRF630
R_FB_PS_Rlp         FB_PS_N12010 FB_N14138  {Rlp/3} TC=0,0 
L_FB_PS_Ls         0 FB_PS_N17058  {N}  
X_FB_PS_U1         FB_N19132 FB_N02226 FB_N14338 FB_N14542 0 FB_PS_N15331
+  FB_N15349 FB_N14535 UCCx813-1
R_FB_PS_Rls         FB_PS_ANODE FB_PS_N12024  {Rls/3} TC=0,0 
C_FB_PS_CsnubM         FB_N14138 FB_PS_N17896  {267p*2}  TC=0,0 
D_FB_PS_D1         FB_PS_ANODE AA Dntsv30120ctg 
L_FB_PS_Lms         FB_PS_N17058 FB_PS_N12024  {Lm}  
R_FB_PS_RsnubM         FB_PS_DRAIN FB_PS_N17896  23.7R TC=0,0 
C_FB_PS_CsnubD         FB_PS_ANODE FB_PS_N18140  {204p*2}  TC=0,0 
C_FB_Clp         0 FB_N14338  100p  TC=0,0 
R_FB_Rcomp         FB_N02226 FB_N19124  10k TC=0,0 
R_FB_Rcs         0 FB_N14259  167m TC=0,0 
C_FB_CT         0 FB_N14542  200p  TC=0,0 
L_FB_L1         AA FB_N21188  9.3nH  
R_FB_RT         FB_N14542 FB_N14535  33.2k TC=0,0 
C_FB_Cout         0 FB_N23570  {56u*4}  TC=0,0 
C_FB_Ccomp         FB_N19132 FB_N19124  50n  TC=0,0 
R_FB_RFB3         INJ AA  51.1R TC=0,0 
C_FB_IF_Cin1         0 FB_N14138  10u  TC=0,0 
C_FB_IF_Cin2         0 FB_IF_N129151  40u  TC=0,0 
L_FB_IF_Lin         IN FB_N14138  3u  
R_FB_IF_Rin         FB_IF_N129151 FB_N14138  800m TC=0,0 
R_FB_RFB2         0 FB_N02226  2.55k TC=0,0 
R_FB_Rlp         FB_N14259 FB_N14338  464R TC=0,0 
C_FB_Cvcc         0 FB_N15349  1u  TC=0,0 
V_FB_V1         FB_N15349 0 12V
R_FB_R1         FB_N23570 FB_N21188  3.75m TC=0,0 
C_FB_Cout1         0 AA  100nF  TC=0,0 
V_Vinj         INJ AA DC 0 AC 0
+SIN 0 {0.5*BF/Freq*(Freq+COF)/COF} {Freq} 0 0 0
V_Vmb         IN 0  
+PULSE 0V 26V 1ms 1ms 1ms 9s 10s
G_Gload         AA 0 Value = {V(aa)/Rload*Pscale}
.PARAM  pscale=1.0 n=19 cof=10khz lm=76nh ssd=15ms bf=100hz freq=100hz rlp=160m
+  rls=160m rload={8.4r}
